US06194426B1
N-Chlorosuccinimide is added in 0.05 g portions to a solution of 0.1 g of 3-(5-thiazolyl)-5,6,7,8-tetrahydroindolizine-1-carboxamide in 10 cm3 of acetonitrile at 65° C. After 2 hours a precipitate is seen to form. The mixture is allowed to cool to approximately 20° C., the solid is filtered off and washed with two times 0.5 cm3 of acetonitrile. The operation was repeated another two times on 0.1 g of 3-(4-thiazolyl)-5,6,7,8-tetrahydroindolizine-1-carboxamide. The solids obtained in the three tests were combined and chromatographed on a column of 1.8 cm diameter containing 40 g of silica (0.063-0.220). Elution is carried out with a 95/5 mixture of dichloromethane and methanol, 2-cm3 fractions being collected. The homogeneous fractions are combined and concentrated at reduced pressure (2.7 kPa) at a temperature close to 40° C., to give a white solid which is taken up in ethyl ether and then filtered off and dried in air. 0.12 g of 2-chloro-3-(5-thiazolyl)-5,6,7,8-tetrahydroindolizine-1-carboxamide are thus obtained in the form of a white solid which melts at 227° C.

reactant | N-Chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-(5-thiazolyl)-5,6,7,8-tetrahydroindolizine-1-carboxamide | 0.1 g | S1C=NC=C1C1=CC(=C2CCCCN12)C(=O)N | C12H13N3OS
solvent | acetonitrile | 10 cm3 | C(C)#N | C2H3N
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-chloro-3-(5-thiazolyl)-5,6,7,8-tetrahydroindolizine-1-carboxamide | 0.12 g | ClC=1C(=C2CCCCN2C1C1=CN=CS1)C(=O)N | C12H12ClN3OS
